US04269846
2-(2-oxo-3-acetyl-3H-1,3,4-oxadiazole-5-yl)benzoxazole
5.0 g of 2-(2-oxo-3H-1,3,4-oxadiazole-5-yl)benzoxazole in 50 ml of acetic acid containing 5 ml of acetic anhydride was heated for 1 hour at 100°. The mixture was poured into water and the crystalline product filtered. Recrystallization from acetonitrile gave mp. of 231°-232°.

reactant | 2-(2-oxo-3H-1,3,4-oxadiazole-5-yl)benzoxazole | 5.0 g | O=C1OC(=NN1)C=1OC2=C(N1)C=CC=C2 | C9H5N3O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-(2-oxo-3-acetyl-3H-1,3,4-oxadiazole-5-yl)benzoxazole | O=C1OC(=NN1C(C)=O)C=1OC2=C(N1)C=CC=C2 | C11H7N3O4
